US07629358B2
Preparation 37: 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid
3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid methyl ester (Preparation 36) (1.50 g, 3.08 mmol), aqueous sodium hydroxide solution (5M, 3.07 ml, 15.0 mmol), water (2 ml) and dioxane (20 ml) were stirred at room temperature for 18 hours. The solvent was removed in vacuo and the residue dissolved in water (30 ml) and acidified with aqueous hydrochloric acid (1N, 15.38 ml). The resulting white precipitate was filtered off and dried in vacuo for 72 hours to furnish the title compound as a white solid (1.28 g). 1H NMR (400 MHz, CD3OD) δ=7.88 (1H, d), 7.81 (1H, bs), 7.38-7.28 (3H, m), 7.10 (1H, dd), 6.77 (1H, d), 4.92 (1H, m, partially under solvent peak), 4.61 (2H, dd), 3.23-3.12 (2H, m), 2.95 (2H, dd), 1.08 (6H, s), 0.81 (9H, s), −0.04 (3H, s), −0.15 (3H, s). LRMS (electrospray) m/z 474 [M+H]+

reactant | 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid methyl ester | 3.08 mmol, 1.50 g | COC(C1=CC(=CC=C1)CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O[Si](C)(C)C(C)(C)C)=O | C27H41NO5Si
reactant | sodium hydroxide | 15.0 mmol, 5M, 3.07 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid | 1.28 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C(=O)O)C=CC1)(C)C)C1=CC(=C(C=C1)O)CO | C26H39NO5Si
